US05656642
230 mg of sodium hydride was added, under ice-cooling, to a solution of 2.2 g of 4-[N-methyl-N-(2-phenylethyl)amino]-1-[3-(5-chlorovalerylamino)benzoyl]piperidine in 20 ml of dimethylformamide. The mixture was stirred at the same temperature for 30 minutes. The reaction mixture was poured into ice water. The mixture was extracted with methylene chloride. The extract was washed with a saturated aqueous sodium chloride solution, dried with magnesium sulfate, and concentrated under reduced pressure. The residue was purified by a silica gel column chromatography (eluant:methylene chloride/methanol=100/3 to 20/1) and then converted into a hydrochloride. The hydrochloride was solidified from ethanol-diethyl ether to obtain 1.7 g of 4-[N-methyl-N-(2-phenylethyl)amino]-1-[3-(2-oxo-1-piperidin-yl)benzoyl]piperidine hydrochloride as a white amorphous.

reactant | sodium hydride | 230 mg | [H-].[Na+]
reactant | 4-[N-methyl-N-(2-phenylethyl)amino]-1-[3-(5-chlorovalerylamino)benzoyl]piperidine | 2.2 g | CN(CCC1=CC=CC=C1)C1CCN(CC1)C(C1=CC(=CC=C1)NC(CCCCCl)=O)=O | C26H34ClN3O2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 4-[N-methyl-N-(2-phenylethyl)amino]-1-[3-(2-oxo-1-piperidin-yl)benzoyl]piperidine hydrochloride | 1.7 g | Cl.CN(CCC1=CC=CC=C1)C1CCN(CC1)C(C1=CC(=CC=C1)N1C(CCCC1)=O)=O | InChI=1S/C26H33N3O2.ClH/c1-27(17-13-21-8-3-2-4-9-21)23-14-18-28(19-15-23)26(31)22-10-7-11-24(20-22)29-16-6-5-12-25(29)30;/h2-4,7-11,20,23H,5-6,12-19H2,1H3;1H
